US04459224
p-Tert.butyl-benzyl cyanide
A mixture consisting of 107 g p-tert.butylbenzyl bromide, 2 g tetra butyl-ammonium jodide and 37 g NaCN in 50 ml water was heated during 1 hour at 100° C. After cooling the reaction mixture, the organic layer was separated and distilled in vacuo with a yield of 78 g of the desired cyanide. Then this product was fractionated in vacuo. Yield of p-tert.butylbenzyl cyanide: 65 g (80%): boiling point: 118° C./0,7 kPa: nD =1,5110. This cyanide has a very strong odor which reminds one of algae, seaweed and ozone with ambergris-like, fatty and animal notes.

reactant | p-tert.butylbenzyl bromide | 107 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | tetra butyl-ammonium | 2 g | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaCN | 37 g | [C-]#N.[Na+]
solvent | water | 50 ml | O | H2O
product | p-Tert.butyl-benzyl cyanide | C(C)(C)(C)C1=CC=C(CC#N)C=C1 | C12H15N
